US08003800B2
To a solution of 4-isobutyl-3-methyl-thiophene-2-carboxylic acid (2.44 g, 12.3 mmol) in diethyl ether (50 mL), a solution of methyllithium (23.1 mL, 1.6 M solution in diethyl ether) is slowly added at 20-23° C. The resulting suspension is stirred at rt for 30 min before another portion of methyllithium (2.3 mL) is added. Stirring is continued for further 30 min before the mixture is poured into vigorously stirred 1 N. aq. NH4Cl (400 mL). The organic phase is separated and the aq. phase is extracted again with diethyl ether. The combined organic extracts are dried over Na2SO4, filtered and evaporated to leave 1-(4-isobutyl-3-methyl-thiophen-2-yl)ethanone (2.34 g) as pale yellow oil; LC-MS: tR=1.03 min, [M+1]=197.20; 1H NMR (CDCl3): δ7.08 (s, 1H), 2.52 (s, 3H), 2.46 (s, 3H), 2.42 (d, J=7.0 Hz, 2H), 1.82 (m, J=7.0 Hz, 1H), 0.92 (d, J=6.4 Hz, 6H).

reactant | 4-isobutyl-3-methyl-thiophene-2-carboxylic acid | 12.3 mmol, 2.44 g | C(C(C)C)C=1C(=C(SC1)C(=O)O)C | C10H14O2S
reactant | methyllithium | 1.6 M, 23.1 mL | C[Li]
reactant | methyllithium | 2.3 mL | C[Li]
reactant | NH4Cl | 400 mL | [NH4+].[Cl-]
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 1-(4-isobutyl-3-methyl-thiophen-2-yl)ethanone | 2.34 g | C(C(C)C)C=1C(=C(SC1)C(C)=O)C | C11H16OS
